US20010020034A1
5-(3-{4-[Bis-(2-hydroxy-ethyl)-amino]-butyl}-ureido)-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazole-4-carboxylic acid amide
The title compound was prepared from [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester and 2-[(4-amino-butyl)-(2-hydroxy-ethyl)-amino] -ethanol by the procedure analogous to Example 6. HPLC ret. time: 3.1 minutes. 1H NMR (400 MHz, CD3OD) δ 7.20 (dd, 1H, J=6.0, 9.2 Hz), 7.04 (dd, 1H, J=6.8, 9.6 Hz), 5.45 (s, 2H), 3.63 (t, 4H, J=5.6 Hz), 3.28 (m), 2.74 (m, 4H), 2.68 (m, 2H), 2.25 (d, 3H, J=2.0 Hz), 1.56 (m, 4H) ppm; MS (APCl, m/z): 502 [M+H]+.

reactant | [4-carbamoyl-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazol-5-yl]-carbamic acid phenyl ester | C1(=CC=CC=C1)OC(NC1=C(C(=NS1)OCC1=C(C=C(C(=C1)F)C)F)C(N)=O)=O | C19H15F2N3O4S
reactant | 2-[(4-amino-butyl)-(2-hydroxy-ethyl)-amino] -ethanol | NCCCCN(CCO)CCO | C8H20N2O2
product | 5-(3-{4-[Bis-(2-hydroxy-ethyl)-amino]-butyl}-ureido)-3-(2,5-difluoro-4-methyl-benzyloxy)-isothiazole-4-carboxylic acid amide | OCCN(CCCCNC(NC1=C(C(=NS1)OCC1=C(C=C(C(=C1)F)C)F)C(=O)N)=O)CCO | C21H29F2N5O5S
